US09056849B2
Deprotection of 2,2,2-trifluoro-N-(3-(3-((2-hydroxycyclohexyl)ethynyl)phenyl)propyl)acetamide followed by flash chromatography (10% (7N NH3/MeOH)/dichloromethane) gave 2-((3-(3-aminopropyl)phenyl)ethynyl)cyclohexanol as an orange oil. Yield (0.606 g, 69%): 1H NMR (400 MHz, CDCl3) δ 7.16-7.26 (m, 3H), 7.08-7.12 (m, 1H), 3.48-3.56 (m, 1H), 2.71 (t, J=7.2 Hz, 2H), 2.61 (t, J=7.2 Hz, 2H), 2.38-2.46 (m, 1H), 2.01-2.10 (m, 2H), 1.64-1.82 (m, 7H), 1.40-1.52 (m, 1H), 1.16-1.40 (m, 3H).

reactant | 2,2,2-trifluoro-N-(3-(3-((2-hydroxycyclohexyl)ethynyl)phenyl)propyl)acetamide | FC(C(=O)NCCCC1=CC(=CC=C1)C#CC1C(CCCC1)O)(F)F | C19H22F3NO2
reactant | NH3 MeOH | 7N | N.CO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-((3-(3-aminopropyl)phenyl)ethynyl)cyclohexanol | NCCCC=1C=C(C=CC1)C#CC1C(CCCC1)O | C17H23NO
